US07384983B2
(R)-3-iodo-1-phenyl-1-(2-methyl-4-((tert-butoxycarbonyl)-oxy)phenoxy)propane
A dry 1-L R.B. flask was charged (R)-3-chloro-1-phenyl-1-(2-methyl-4-((tert-butoxycarbonyl)oxy)phenoxy)propane (18.00 g, 47.80 mmol), sodium iodide (90.0 g, 600 mmol) and 2-butanone (550 mL). The reaction flask was protected from light. The reaction mixture was stirred at reflux temperature under nitrogen for 16 hours. The mixture was cooled to room temperature and poured into ether (1 L). The insoluble inorganic salts (white precipitate) were removed by filtration. The filtrate was concentrated under reduced pressure and the crude residue was dissolved in diethyl ether (1 L). The ethereal layer was washed with cold saturated sodium bisulfite solution (2×200 mL), water and saturated aqueous sodium chloride. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to flash chromatography, eluting with 20% ethyl acetate in hexane to provide 20.5 grams (91%) of the desired compound.

reactant | (R)-3-chloro-1-phenyl-1-(2-methyl-4-((tert-butoxycarbonyl)oxy)phenoxy)propane | 47.80 mmol, 18.00 g | ClCC[C@@H](OC1=C(C=C(C=C1)OC(=O)OC(C)(C)C)C)C1=CC=CC=C1 | C21H25ClO4
reactant | sodium iodide | 600 mmol, 90.0 g | [I-].[Na+]
reactant | 2-butanone | 550 mL | CC(CC)=O | C4H8O
solvent | ether | 1 L | CCOCC | C4H10O
product | (R)-3-iodo-1-phenyl-1-(2-methyl-4-((tert-butoxycarbonyl)-oxy)phenoxy)propane | 20.5 grams, 91% | ICC[C@@H](OC1=C(C=C(C=C1)OC(=O)OC(C)(C)C)C)C1=CC=CC=C1 | C21H25IO4
